US05929085
(a) 7-Nitro-1,2,3,4-tetrahydroisoquinoline-1-acetonitrile
A suspension of 7-nitro-3,4-dihydroisoquinoline (13.4 g, 76.1 mmol) and cyanoacetic acid (12.5 g, 150 mmol) in acetic acid (55 ml) was heated at reflux for 0.5 h. After evolution of carbon dioxide had ceased and the reaction mixture had cooled, the solvent was removed on the rotoevaporator. The residue was triturated with isopropanol (100 ml) and the solid was collected. The crude product was partitioned between ethyl acetate and dilute potassium carbonate solution. The dried (MgSO4) organic phase was concentrated to give the title compound as an orange solid (12.6 g, 76%), MS 218 (M+H)+. 1H NMR (CDCl3) 8.03 (dd, 1H), 7.99 (d, 1H), 7.31 (d, 1H), 4.45 (t, 1H, 3.1-3.4 (m, 3H), 2.9-3.0 (m, 3H), 2.07 (broad s, 1H).

reactant | 7-nitro-3,4-dihydroisoquinoline | 76.1 mmol, 13.4 g | [N+](=O)([O-])C1=CC=C2CCN=CC2=C1 | C9H8N2O2
reactant | cyanoacetic acid | 150 mmol, 12.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
product | 7-Nitro-1,2,3,4-tetrahydroisoquinoline-1-acetonitrile | 12.6 g, 76% | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)CC#N | C11H11N3O2
